US05491148
A solution of trimethylaluminum (0.8 mmol) in toluene was slowly added to asolution of (S)-3-amino-1-azabicyclo[2.2.2]octane (0.1 g; 0.8 mmol) in toluene (5.0 mL) and the mixture stirred for 15 minutes. A solution of methyl 3-methoxy-2-methylbenzoate (0.1 g; 0.55 mmol) in toluene (2 mL) wasadded and the reaction mixture heated to reflux until, as indicated by thin-layer chromatography, the reaction had finished. The mixture was cooled to 0° C. and then carefully quenched with water (0.4 mL). The reaction mixture was stirred for an additional 30 minutes and then filtered washing with ethyl acetate (2×20 mL). Removal of the solvent from the combined filtrate gave (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-3-methoxy-2-methylbenzamide as a whitesolid (0.19 g, 0.686 mmol). Preparation of the hydrochloride salt from ethanol-hydrogen chloride gave (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-3-methoxy-2-methylbenzamide hydrochloride, m.p. 259°-261° C., [α]D25 -13.8° (c=0.16, H2O).

reactant | trimethylaluminum | 0.8 mmol | C[Al](C)C
reactant | (S)-3-amino-1-azabicyclo[2.2.2]octane | 0.8 mmol, 0.1 g | N[C@@H]1CN2CCC1CC2 | C7H14N2
reactant | methyl 3-methoxy-2-methylbenzoate | 0.55 mmol, 0.1 g | COC=1C(=C(C(=O)OC)C=CC1)C | C10H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-3-methoxy-2-methylbenzamide | N12C[C@H](C(CC1)CC2)NC(C2=C(C(=CC=C2)OC)C)=O | C16H22N2O2
